US07342115B2
A mixture of 4-chloro-6-(2,6-diethyl-phenyl)-nicotinic acid methyl ester (2.5 g, 8.2 mmol), Et3B (1M in Hexane, 49 mL, 49 mmol), Na2CO3 (2M in H2O, 12.3 mL) and Pd(PPh3)4 (500 mg) in toluene (36 mL) is heated at 80° C. under argon for 2 days. On cooling, hexane (50 mL) is added and the organic layer separated. The organic layer is washed with saturated Na2CO3 and water, dried (Na2SO4), and concentrated. The residue is purified by silica gel chromatography (hexane/EtOAc 4:1) to give 6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester. 1H NMR (CDCl3) 9.15 (s, 1H), 7.30 (m, 1H), 7.21 (s, 1H), 7.15 (d, 2H), 3.97 (s, 3H), 3.06 (q, 2H), 2.31 (m, 4H), 1.26 (t, 3H), 1.03 (t, 6H).

reactant | 4-chloro-6-(2,6-diethyl-phenyl)-nicotinic acid methyl ester | 8.2 mmol, 2.5 g | COC(C1=CN=C(C=C1Cl)C1=C(C=CC=C1CC)CC)=O | C17H18ClNO2
reactant | Et3B | 49 mmol, 1M, 49 mL | B(CC)(CC)CC | C6H15B
reactant | Na2CO3 | 2M, 12.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | hexane | 50 mL | CCCCCC | C6H14
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2,6-diethyl-phenyl)-4-ethyl-nicotinic acid methyl ester | COC(C1=CN=C(C=C1CC)C1=C(C=CC=C1CC)CC)=O | C19H23NO2
